US06482920B1
A solution of 2 g of distamycin A in 35 ml DMF was heated to 80° C. and treated with 0.46 ml of hydroxylamine 1M in DMF. After 30′ additional 1 equivalent of hydroxylamine 1M in DMF was added. The solution was evaporated to dryness and the crude residue was purified by flash chromatography (methylene chloride/methanol: 9/1) to give 1.50 g of 3-[1-methyl-4[1-methyl-4[1-methyl-4-formamidopyrrole-2-carboxamido]pyrrole-2-carboxamido]pyrrole-2-carboxamido]propionamidoxime which was dissolved in 50 ml of methanol and added of 10 ml of HCl 2N. The solution was stirred at room temperature for 2 days, the solvent evaporated in vacuo and the solid residue suspended in 200 ml of ethyl acetate, yielding, after filtration 1.4 g of the intermediate.

reactant | distamycin A | 2 g | CN1C=C(C=C1C(=O)NC2=CN(C(=C2)C(=O)NC3=CN(C(=C3)C(=O)NCCC(=N)N)C)C)NC=O | C22H27N9O4
reactant | hydroxylamine | 1M, 0.46 ml | NO | H3NO
reactant | hydroxylamine | 1M, 1 equivalent | NO | H3NO
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | 3-[1-methyl-4[1-methyl-4[1-methyl-4-formamidopyrrole-2-carboxamido]pyrrole-2-carboxamido]pyrrole-2-carboxamido]propionamidoxime | 1.50 g | CN1C(=CC(=C1)NC(=O)C=1N(C=C(C1)NC(=O)C=1N(C=C(C1)NC=O)C)C)C(=O)NCCC(N)=NO | C22H27N9O5
